US05932595
To a solution of 4-[4-(4-chlorophenoxy)phenylthiomethyl]tetrahydropyran-4-carboxylic acid ethyl ester (70 mg, 0.17 mmol) in ethanol (2 mL) containing two drops of water, was added potassium hydroxide (58.3 mg, 1.04 mmol). The mixture was refluxed for 13 hours, cooled to room temperature, acidified to pH 4, and extracted with ethyl acetate (4×50 mL). The combined organic layers were dried over magnesium sulfate, and concentrated to afford 4-[4-(4-chlorophenoxy)phenylthiomethyl]-tetrahydropyran-4-carboxylic acid (66 mg, 100%), which is spectroscopically identical to that isolated from the prior procedure of Example 7D.

reactant | 4-[4-(4-chlorophenoxy)phenylthiomethyl]tetrahydropyran-4-carboxylic acid ethyl ester | 0.17 mmol, 70 mg | C(C)OC(=O)C1(CCOCC1)CSC1=CC=C(C=C1)OC1=CC=C(C=C1)Cl | C21H23ClO4S
reactant | potassium hydroxide | 1.04 mmol, 58.3 mg | [OH-].[K+]
solvent | ethanol | 2 mL | C(C)O | C2H6O
catalyst | water | two drops | O | H2O
product | 4-[4-(4-chlorophenoxy)phenylthiomethyl]-tetrahydropyran-4-carboxylic acid | 66 mg, 100% | ClC1=CC=C(OC2=CC=C(C=C2)SCC2(CCOCC2)C(=O)O)C=C1 | C19H19ClO4S
